US07078429B2
A stirred slurry of 6.35 g (60 mmol) K2CO3, 2.94 g (15 mmol) 5-bromoindole, 2.50 g (16 mmol) 4-chlorophenylboronic acid, and 0.48 g (0.42 mmol) tetrakistriphenylphosphine palladium was heated to reflux for 2½ hours. The reaction mixture was allowed to cool and was then poured into 200 ml water and extracted with EtOAc. The organic layer was separated, dried over MgSO4, and concentrated. The residue was chromatographed on silica to afford 1.39 g 5-(4-chlorophenyl)indole as a white solid.

reactant | K2CO3 | 60 mmol, 6.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-bromoindole | 15 mmol, 2.94 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-chlorophenylboronic acid | 16 mmol, 2.50 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | water | 200 ml | O | H2O
product | 5-(4-chlorophenyl)indole | 1.39 g | ClC1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | C14H10ClN
